US07109339B2
1-(2-Methylsulfanyl-phenyl)hydrazine hydrochloride (27 g, 141.9 mmol) and 4-piperidone monohydrate hydrochloride (21.8 g, 141.9 mmol) were dissolved in ethanol (350 mL) and heated at reflux for 45 min. Conc. HCl (30 mL) was added and heated at reflux for 12 h. The reaction was cooled to rt, filtered, washed with cold isopropyl alcohol (50 mL), and dried to give an off white solid, 6-methylsulfanyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride (33 g, 92%).

reactant | 1-(2-Methylsulfanyl-phenyl)hydrazine hydrochloride | 141.9 mmol, 27 g | Cl.CSC1=C(C=CC=C1)NN
reactant | 4-piperidone monohydrate hydrochloride | 141.9 mmol, 21.8 g | Cl.O.N1CCC(CC1)=O
reactant | HCl | 30 mL | Cl | ClH
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 6-methylsulfanyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 33 g, 92% | Cl.CSC1=CC=CC=2C3=C(NC12)CCNC3 | InChI=1S/C12H14N2S.ClH/c1-15-11-4-2-3-8-9-7-13-6-5-10(9)14-12(8)11;/h2-4,13-14H,5-7H2,1H3;1H
